US05981529
a) (±)-2-Bromo-3-(4-fluorophenyl)propionic acid
To a cooled (0° C., ice/salt bath) solution of DL-4-fluorophenylalanine (5.0 g, 27.0 mmol) and potassium bromide (10.65 g, 90.0 mmol) in 3M sulphuric acid (45 ml) was added sodium nitrite (2.64 g, 38.0 mmol) portionwise over a 0.5 h period. The mixture was stirred at 0° C. for 1 h and then at room temperature for 1 h. The mixture was diluted with water (50 ml) and extracted with ether (2×75 ml). The combined extracts were washed with water (2×75 ml), dried (MgSO4) and evaporated in vacuo. The residue was chromatographed on silica gel eluting with CH2Cl2 /MeOH/NH3 (95:5:1) to give the title-acid (3.77 g, 56%), δ(250 MHz, CDCl3) 3.22 (1H, dd, J=14.3 and 7.2 Hz, CH of CH2), 3.43 (1H, dd, J=14.3 and 8.1 Hz, CH of CH2), 4.38 (1H, dd, J=7.2 and 8.1 Hz, CH), 6.98-7.31 (4H, m, Ar--H).

reactant | DL-4-fluorophenylalanine | 27.0 mmol, 5.0 g | C1=CC(=CC=C1CC(C(=O)O)N)F | C9H10FNO2
reactant | potassium bromide | 90.0 mmol, 10.65 g | [Br-].[K+]
reactant | sodium nitrite | 38.0 mmol, 2.64 g | N(=O)[O-].[Na+]
solvent | sulphuric acid | 3M, 45 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
product | (±)-2-Bromo-3-(4-fluorophenyl)propionic acid | BrC(C(=O)O)CC1=CC=C(C=C1)F | C9H8BrFO2
